US09034880B2
Preparation of 8-Chloro-5-[2-(6-methyl-pyridin-3-yl)-ethyl]-2-(3-trifluoromethyl-phenyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (Compound 403)
To a stirred solution of N-(4-Chloro-phenyl)-N-[2-(6-methyl-pyridin-3-yl)-ethyl]-hydrazine hydrochloride (0.13 g, 0.5 mmol) in absolute ethanol (5 mL) was added 1-(3-Trifluoromethyl-phenyl)-piperidin-4-one (0.122 g, 0.5 mmol) at RT and then refluxed for 1 h. After completion (TLC), ethanol was evaporated. The crude was purified by preparative HPLC to provide desired compound as brown colored solid (0.02 g, 10% yield) 8-Chloro-5-[2-(6-methyl-pyridin-3-yl)-ethyl]-2-(3-trifluoromethyl-phenyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (0.020 g, 0.0425 mmol) was dissolved in THF (1.0 mL). A solution of oxalic acid dihydrate (0.0053 g, 0.0425 mmol) in 1.5 mL THF was added and stirred for 30 min at RT. Precipitate was filtered and dried to give oxalate salt as brown solid (0.01 g, 43% yield).

reactant | N-(4-Chloro-phenyl)-N-[2-(6-methyl-pyridin-3-yl)-ethyl]-hydrazine hydrochloride | 0.5 mmol, 0.13 g | Cl.ClC1=CC=C(C=C1)N(N)CCC=1C=NC(=CC1)C
reactant | 1-(3-Trifluoromethyl-phenyl)-piperidin-4-one | 0.5 mmol, 0.122 g | FC(C=1C=C(C=CC1)N1CCC(CC1)=O)(F)F | C12H12F3NO
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 8-Chloro-5-[2-(6-methyl-pyridin-3-yl)-ethyl]-2-(3-trifluoromethyl-phenyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.0425 mmol, 0.020 g | ClC1=CC=2C3=C(N(C2C=C1)CCC=1C=NC(=CC1)C)CCN(C3)C3=CC(=CC=C3)C(F)(F)F | C26H23ClF3N3
